* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1184.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N003 N005 N009 0 NP
Q2 N004 N006 N009 0 NP
L1 N003 N002 20µ
L2 N002 N004 20µ
C1 N004 N003 .068µ
L3 N006 N005 1µ
V1 N002 0 28
L4 N001 0 50m
L5 N009 N011 50µ
D1 N011 N002 1N5818
R1 N002 N007 220K
R2 N007 N009 100K
C2 N002 N007 1000p
R3 N008 N013 89.6K
D2 0 N011 1N5818
C3 N015 0 1µ
V2 N008 0 5
C4 N002 0 2.2µ
R4 N002 N006 500
X§U1 0 N013 N010 N015 0 N014 MP_01 MP_02 MP_03 MP_04 N012 N008 MP_05 N002 N007 N011 LT1184
R§Lamp N001 N010 70K
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10m
K1 L1 L2 L3 L4 1
* BAT
.model NP NPN
.lib LT1184.sub
.backanno
.end
